US09162979B2
2-(Hydroxy)-N-[2-(1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl)-ethyl]acetamide
A solution of 2-(acetoxy)-N-[2-(1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl)-ethyl]acetamide (0.95 g, 0.210 mmol) in methanol (10 mL) is treated with K2CO3 (0.58 g, 0.421 mmol) in water (10 mL). The reaction mixture is heated at 50° C. for 2 h, then it is concentrated and the residue is extracted with CH2Cl2. It is dried and concentrated, obtaining the product at yield of 98%. 1H NMR 400 MHz, CDCl3: δ 2.05 (s, 3H), 2.41 (s, 1H), 2.74 (t, J=4.00 Hz, 2H), 3.00 (s, 3H), 3.56-3.58 (m, 2H), 4.13 (s, 2H), 6.44 (s, 1H), 6.56 (s, 1H), 7.14-7.16 (m, 4H), 7.39-7.44 (m, 3H), 7.65 (d, J=8.00 Hz, 2H).

reactant | 2-(acetoxy)-N-[2-(1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl)-ethyl]acetamide | 0.210 mmol, 0.95 g | C(C)(=O)OCC(=O)NCCC1=C(N(C(=C1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=CC=C1)C | C24H26N2O5S
reactant | K2CO3 | 0.421 mmol, 0.58 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2-(Hydroxy)-N-[2-(1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl)-ethyl]acetamide | yield of 98% | OCC(=O)NCCC1=C(N(C(=C1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=CC=C1)C | C22H24N2O4S
